US08314091B2
A: 3-(Chloromethyl)-N-(1-cyano-1-cyclopropylethyl)benzamide
3-(Chloromethyl)benzoyl chloride (9.08 mmol, 1.290 ml, 1.716 g) and triethylamine (27.2 mmol, 3.79 mL, 2.76 g) were stirred in dichloromethane (10 mL) at 0° C. 2-Amino-2-cyclopropylpropanenitrile (9.08 mmol, 1 g) was added dropwise and the reaction allowed to warm to room temperature and stir for 1 hour. The reaction mixture was washed with water and the organic phase concentrated under vacuum to afford the title compound (1.451 g). MS (ESI) m/z 263.1 [M+H]+

reactant | 3-(Chloromethyl)benzoyl chloride | 9.08 mmol, 1.290 ml, 1.716 g | ClCC=1C=C(C(=O)Cl)C=CC1 | C8H6Cl2O
reactant | triethylamine | 27.2 mmol, 3.79 mL, 2.76 g | C(C)N(CC)CC | C6H15N
reactant | 2-Amino-2-cyclopropylpropanenitrile | 9.08 mmol, 1 g | NC(C#N)(C)C1CC1 | C6H10N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-(Chloromethyl)-N-(1-cyano-1-cyclopropylethyl)benzamide | 1.451 g | ClCC=1C=C(C(=O)NC(C)(C2CC2)C#N)C=CC1 | C14H15ClN2O
